2158-01-18 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2158-1-17**] 06:00 PM
 NASAL SWAB - At [**2158-1-17**] 07:00 PM
 MULTI LUMEN - START [**2158-1-18**] 12:48 AM
 LUMBAR PUNCTURE - At [**2158-1-18**] 04:00 AM
   Allergies:
   Codeine
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-1-17**] 08:40 PM
   Vancomycin - [**2158-1-17**] 10:30 PM
   Ampicillin - [**2158-1-18**] 01:35 AM
   Acyclovir - [**2158-1-18**] 04:54 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2158-1-18**] 02:51 AM
   Fentanyl - [**2158-1-18**] 04:10 AM
   Midazolam (Versed) - [**2158-1-18**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-18**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 72 (70 - 101) bpm
   BP: 139/54(73) {115/39(58) - 192/58(108)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  1,609 mL
                                                                  1,438 mL
   PO:
   TF:
   IVF:
                                                                  1,609 mL
                                                                  1,413 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    225 mL
   Urine:
                                                                    215 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    944 mL
                                                                  1,213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 435 (435 - 435) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/43/232/26/1
   Ve: 6 L/min
   PaO2 / FiO2: 580
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   10.2 g/dL
   144 mg/dL
   1.3 mg/dL
   26 mEq/L
   2.9 mEq/L
   22 mg/dL
   109 mEq/L
   142 mEq/L
   30.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2158-1-17**]  06:59 PM
                             [**2158-1-17**]  10:12 PM
                             [**2158-1-17**]  11:01 PM
                             [**2158-1-18**]  01:54 AM
                             [**2158-1-18**]  05:13 AM
   WBC
   7.0
   6.3
   Hct
   39.0
   30.5
   30.9
   Plt
   181
   191
   Cr
   1.2
   1.3
   TropT
   <0.01
   TCO2
   28
   Glucose
   310
   144
   Other labs: PT / PTT / INR:12.4/29.5/1.0, CK / CKMB /
   Troponin-T:/3/<0.01, ALT / AST:18/25, Alk Phos / T Bili:94/0.3, Lactic
   Acid:1.7 mmol/L, LDH:232 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Fluid analysis / Other labs: CSF studies:
   Protein  63    Glucose  140
   WBC  2    RBC  0
   Comments: CSF WBC: Clear And Colorless
   Imaging: CT HEAD W/O CONTRAST Study Date of [**2158-1-17**]:  No acute
   intracranial hemorrhage or large infarct. If there is suspicion for
   other acute intracranial processes, MR can be ordered.
   .
   CT Abdomen/Pelvis [**2158-1-17**]: Bilateral perinephric stranding without
   renal perfusion abnormality. Markedly distended urinary bladder.
   Correlation with UA is recommended..
   .
   CXR [**2158-1-17**]: No acute intrathoracic process.
   ECG: Normal Sinus, no QT or QRS prolongation
   Assessment and Plan
 HYPOGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   I saw and examined Ms. [**Known lastname 11640**] with the ICU resident, whose note from
   today reflects my input.  I would add/emphasize that this 67 y/o woman
   with type I DM presented with gastroenteritis-like symptoms to the ED.
   Evaluation revealed perinephric stranding by imaging.  Received a small
   amount of planned cipro, and seized.  Received benzodiazepines but
   eventually intubated.  Hypertense, never hypoglycemic.  On exam, she
   now has low-grade fever (100.4), 130/52, 15, 100% on the vent.  Gaze
   deviation.  Apparent weakness, exam limited by sedation.  Soft systolic
   murmur.  Clear lungs.  Soft abdomen.  Upgoing toe on left.  No
   sustained clonus.  Neck a bit stick but not frankly meningitic.
   Labs, imaging, meds, allergies, SH, FH, ROS all reviewed.  CT negative
   on official read, though ?some right temporal hypodensity.  EKG with
   slight lateral ST depressions.
   Assessment and Plan
   67 year old woman with apparent first seizure in the setting of
   apparent gastroenteritis-like symptoms.  Otherwise, complex past
   history including CAD, PVDz, DM1, and autonomic dysfunction.
          Appreciate neurology
s help
          MRI and EEG as per their recs
          Given low-grade fever
 LP, empiric coverage for infection
   (vanco, ceftriaxone, amp, acyclovir)
          Check tox screen, LFTs
          Recheck EKG, and complete cycle of cardiac enzymes given GI
   symptoms in diabetic
          Attempt art line placement for vent management, blood draws
          Other issues as per ICU team note
   Assessment and Plan:
   .
   # Seizure: No prior history per OMR or family. Unlikely to be secondary
   to electrolyte abnormalities (Na normal on admission) and hypoglycemia
   (glucose normal). Less likely to be Alcohol withdrawal or illicit
   medications as no prior history. Patient recently suffering from
   gastroenteritis, unlikely to cause
   - Add on tox screen
   - Infectious work-up: blood, urine, CXR
   - LP
   - Avoid medications that decrease seizure thresold
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-1-17**] 06:10 PM
   Multi Lumen - [**2158-1-18**] 12:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-01-19 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2158-1-18**] 11:33 AM
 INVASIVE VENTILATION - STOP [**2158-1-18**] 12:00 PM
 PICC LINE - START [**2158-1-18**] 03:00 PM
   - neuro recs: No LP for now. Please obtain an MRI CNS with DWI
   and EEG. Please start LEV at 20 mg/ kg divided into two doses.
   Obtain cyclosporine level and reduce BPs (possible PRES) by 25%
   every 6 hours
   - Had elevated BP's (190's/90s) in the evening. Responded well to 10 mg
   IV hydralazine -> 150/60
   - c/o vague intermittent abdominal/back pain. Gave 1 mg IV morphine. Of
   note, has PCP in [**Name9 (PRE) 319**], who Rx's 40 mg oxycontin QAM, 10 mg QPM &
   oxyocodone 5-10 mg daily PRN. Started patient on oxycontin 10 mg [**Hospital1 **]
   - CT Abd/Pelvis: Bilateral perinephric stranding without renal
   perfusion abnormality. Markedly distended urinary bladder
   - Advanced to regular diet
   - EEG: +encephalopathy, NO seizure
   - Still had not gone for MRI as of 2300
   - [**Last Name (un) 276**] c/s: Agree w/starting lantus & SS
   - CXR: appreciable narrowing of subglottic trachea, likely [**1-3**] edema
   from intubation; no wheezes
   Allergies:
   Codeine
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-1-17**] 08:40 PM
   Acyclovir - [**2158-1-18**] 04:54 AM
   Ampicillin - [**2158-1-18**] 08:33 AM
   Vancomycin - [**2158-1-18**] 09:33 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-1-18**] 07:54 PM
   Pantoprazole (Protonix) - [**2158-1-18**] 07:55 PM
   Hydralazine - [**2158-1-19**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Pain: [**4-6**] Moderate
   Flowsheet Data as of  [**2158-1-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 82 (73 - 82) bpm
   BP: 185/68(99) {129/45(70) - 185/80(106)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (2 - 8)mmHg
   Total In:
                                                                  3,301 mL
                                                                    664 mL
   PO:
                                                                    410 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,716 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                  1,600 mL
   Urine:
                                                                  1,635 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,666 mL
                                                                   -936 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 792 (493 - 792) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: Well nourished, Intermittently in distress from abd
   pain
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   11.0 g/dL
   157 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.0 mEq/L
   11 mg/dL
   104 mEq/L
   138 mEq/L
   33.3 %
   5.5 K/uL
        [image002.jpg]
                             [**2158-1-17**]  06:59 PM
                             [**2158-1-17**]  10:12 PM
                             [**2158-1-17**]  11:01 PM
                             [**2158-1-18**]  01:54 AM
                             [**2158-1-18**]  05:13 AM
                             [**2158-1-18**]  08:19 AM
                             [**2158-1-19**]  03:07 AM
   WBC
   7.0
   6.3
   5.5
   Hct
   39.0
   30.5
   30.9
   33.3
   Plt
   181
   191
   152
   Cr
   1.2
   1.3
   1.1
   0.9
   TropT
   <0.01
   0.01
   TCO2
   28
   Glucose
   [**Telephone/Fax (3) 11660**]57
   Other labs: PT / PTT / INR:12.4/29.5/1.0, CK / CKMB /
   Troponin-T:/3/0.01, ALT / AST:18/25, Alk Phos / T Bili:94/0.3, Lactic
   Acid:0.8 mmol/L, LDH:232 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.6
   mg/dL
   Imaging: [**1-18**] CXR: Despite designation of a right-sided PICC line in
   the clinical history provided, the line comes from the left and ends in
   the mid SVC while a right jugular line passes to the low SVC as before.
   Endotracheal tube has been
   removed but there is appreciable narrowing of the subglottic trachea
   probably due to edema from intubation. Heart size is normal. Lungs are
   clear.  Pleural effusions are small and there is no pneumothorax
   Microbiology: [**1-18**] CSF:   1+    (<1 per 1000X FIELD):
   POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN.
   Assessment and Plan
   67 y/o F DM1, CKD, hyperlipidemia who presents with diarrhea, vomiting
   and developed witnessed seizure in ED.
   .
   # Seizure: No prior history per OMR or family. Unlikely to be secondary
   to electrolyte abnormalities (Na normal on admission) and hypoglycemia
   (glucose normal). Less likely to be Alcohol withdrawal or illicit
   medications as no prior history. Patient recently suffering from
   gastroenteritis, certain viral etiologies can infect CSF and result in
   menigitis. Other etiologies on the differential include structural mass
   or CVA.
   - Add on tox screen
   - Infectious work-up: blood, urine, CXR
   - LP to eval for menigitis
   - Avoid medications that decrease seizure thresold. Hold patient's
   citalopram, gabapentin,lorazepam, reglan, chantix
   - MRI to eval for structural cause
   - EEG
   - Per neurology Levetiracetam 20 mg/kg divided into two doses, add on
   cyclosporine level
   .
   # Diarrhea, vomiting: Most likely gastroenteritis. However based on
   CAD/DM history rule out inferior MI.
   - treat symptoms
   - trend cardiac enzymes
   - EKG in am
   .
   # Hypertension: Seizure could be result of PRES. HTN as outpatient
   significantly lower 100-154. Patient's BP dropped from 230 to 130 in ED
   following propofal.
   - Patient was started on levophed to maintain SBP > 170 (25% drop), can
   wean off as has been > 12 hours
   .
   # DM1: Continue long acting glargine.
   - [**Last Name (un) 276**] consult
   .
   # Hypercholesterolemia: Simvastatin 40 mg qpm
   .
   # Hypothyroid: Continue levothyroxine.
   .
   # CKD: Creatinine arond baseline 1.2-1.5.
   .
   # Depression: Hold meds that decrease seizure threshold
   .
   # Autonomic orthostatic hypotension: NaCl 2 gram [**Hospital1 **]
   .
   # Med Rec: holding outpatient pain meds as patient sedated. Hold
   vitamins as patient NPO.
   .
   # FEN: replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, pantoprazole
   # Access: central line
   # Communication: Husband
   # Code:  Full
 not confirmed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-1-18**] 12:48 AM
   PICC Line - [**2158-1-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: